simulator lang=spectre
global 0

ahdl_include "./dut/ideal_differential_opamp.va"

VinP (vinp 0) vsource type=pwl wave=[0 0.55 10n 0.55 10.1n 0.30 20n 0.30 20.1n 0.48 30n 0.48 30.1n 0.70 45n 0.70]
VinN (vinn 0) vsource dc=0.45

XDUT (vinp vinn voutp voutn) ideal_differential_opamp


tran tran stop=40n maxstep=25p
save vinn vinp voutn voutp
