simulator lang=spectre
global 0

ahdl_include "./dut/latched_comparator_delay.va"

Vdd (vdd 0) vsource dc=0.9
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=5n period=10n width=4n rise=100p fall=100p
Vinn (vinn 0) vsource dc=0.45
Vinp (vinp 0) vsource type=pwl wave=[0 0.65 11n 0.65 11.1n 0.25 21n 0.25 21.1n 0.65 31n 0.65 31.1n 0.25 60n 0.25]

XDUT (dout 0 vdd clk vinn vinp) latched_comparator_delay td=500p tr=100p vn=0


simulatorOptions options evas_profile=balanced

tran tran stop=45n maxstep=25p
save vdd clk vinn vinp dout
