simulator lang=spectre
global 0

ahdl_include "./dut/level_shifter_offset.va"

Vsigin (sigin 0) vsource type=pwl wave=[0 0.1 0.8n 0.1 0.85n 0.4 1.6n 0.4 1.65n -0.2 2.4n -0.2 2.45n 0.8 3.2n 0.8]
XDUT (sigin sigout) level_shifter_offset

simulatorOptions options evas_profile=balanced

tran tran stop=3.0n maxstep=5p
save sigin sigout
