simulator lang=spectre
global 0

ahdl_include "./dut/limiting_diffamp.va"

Vin_p (sigin_p 0) vsource type=pwl wave=[0 -0.3 0.8n -0.3 0.85n -0.1 1.6n -0.1 1.65n 0.1 2.4n 0.1 2.45n 0.4 3.2n 0.4]
Vin_n (sigin_n 0) vsource dc=0
XDUT (sigin_p sigin_n sigout) limiting_diffamp

simulatorOptions options evas_profile=balanced

tran tran stop=3.0n maxstep=5p
save sigin_p sigin_n sigout
